US08957102B2
(Step 3) 4-chloropyrrolo[1,2-f][1,2,4]triazine
Diisopropylethylamine (3.5 mL, 20.3 mmol) was added to a solution of pyrrolo[1,2-f][1,2,4]triazin-4(3H)-one (2.5 g, 18.5 mmol) dissolved in toluene (37.5 mL) under nitrogen atmosphere. Subsequently, after adding phosphorus oxychloride (5.1 mL, 55.7 mmol), the mixture was heated for 20 hours at 100° C. The resulting reaction mixture was cooled to 0° C. and, after slowly adding sodium bicarbonate aqueous solution, stirred at room temperature for 30 minutes. The resulting aqueous layer was extracted with ethyl acetate, dried with magnesium sulfate, and then filtered. The filtrate was concentrated in vacuum. The resulting yellow solid product was subjected to the next step without purification (2.31 g, 15.0 mmol, 81% yield).

reactant | Diisopropylethylamine | 20.3 mmol, 3.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyrrolo[1,2-f][1,2,4]triazin-4(3H)-one | 18.5 mmol, 2.5 g | C1=CN2C=NNC(=O)C2=C1 | C6H5N3O
reactant | phosphorus oxychloride | 55.7 mmol, 5.1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 37.5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloropyrrolo[1,2-f][1,2,4]triazine | 81% yield | C1=CN2C(=C1)C(=NC=N2)Cl | C6H4ClN3
